US08420631B2
Combine 3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (300 mg, 0.75 mmol), dichlorobis(triphenylphosphine)-palladium(II) dichloromethane adduct (54 mg, 0.08 mmol), copper iodide (42 mg, 0.23 mmol) and tetrabutyl ammonium iodide (830 mg, 2.25 mmol) in DMF (3.3 mL) containing triethylamine (0.67 mL) and stir the mixture for 5 min at room temperature. Add phenylacetylene (0.17 mL, 1.5 mmol) and heat the mixture to 70° C. under nitrogen atmosphere for 16 h. Cool the reaction to room temperature and dilute with EtOAc/hexane (1:1, 250 mL). Filter the slurry through Celite®. Wash the filtrate with water (2×300 mL), dry the organic phase over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (19:1 to 9:1) to afford 6-phenylethynyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (251 mg, 98%) as a yellow oil.

reactant | 3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.75 mmol, 300 mg | FC(C(=O)N1CCC2=C(CC1)C(=CC=C2)OS(=O)(=O)C(F)(F)F)(F)F | C13H11F6NO4S
reactant | triethylamine | 0.67 mL | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 1.5 mmol, 0.17 mL | C1(=CC=CC=C1)C#C | C8H6
catalyst | tetrabutyl ammonium iodide | 2.25 mmol, 830 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 3.3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc hexane | 250 mL | CCOC(=O)C.CCCCCC
catalyst | copper iodide | 0.23 mmol, 42 mg | [Cu](I)I
product | 6-phenylethynyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 251 mg, 98% | C1(=CC=CC=C1)C#CC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C20H16F3NO
